US07544688B2
E: (2-Chloro-9-cyclopentyl-purin-6-yl)-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-amine
[2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9-cyclopentyl-purin-6-yl)-amine (0.4 mmol) are stirred at RT in N-methylpiperazine (0.3 ml) for 12 hours. The mixture is diluted with water and extracted 3 times with ethyl acetate. The combined organic phases are washed with brine and the extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with (CH2Cl2/MeOH=9:1) as mobile phase. The product containing fractions are combined and evaporated. A pale oil with R=0.25 (CH2Cl2/MeOH=9:2) is obtained.

reactant | [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9-cyclopentyl-purin-6-yl)-amine | 0.4 mmol | ClCCCOC1=C(C=CC=C1)NC1=C2N=CN(C2=NC(=N1)Cl)C1CCCC1 | C19H21Cl2N5O
reactant | N-methylpiperazine | 0.3 ml | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
product | (2-Chloro-9-cyclopentyl-purin-6-yl)-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-amine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NC1=C(C=CC=C1)OCCCN1CCN(CC1)C | C24H32ClN7O
